US09382188B2
A) ethyl 6-hydroxypyrimidine-4-carboxylate
Triethylamine (17.3 mL) was added dropwise to a solution of formamidine hydrochloride (10.0 g) and diethyl acetylenedicarboxylate (19.9 mL) in acetonitrile (300 mL) at room temperature. The reaction mixture was stirred at 50° C. for 1 hr and heated under reflux overnight. The solvent of the reaction mixture was evaporated under reduced pressure to give a crude product of the title compound as a brown solid. This compound was used for the next step without further purification.

reactant | Triethylamine | 17.3 mL | C(C)N(CC)CC | C6H15N
reactant | formamidine hydrochloride | 10.0 g | Cl.C(=N)N
reactant | diethyl acetylenedicarboxylate | 19.9 mL | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | ethyl 6-hydroxypyrimidine-4-carboxylate | OC1=CC(=NC=N1)C(=O)OCC | C7H8N2O3
